US07423159B2
[5-(4-Fluorophenyl)-1,2,3-thiadiazol-4-yl]methanol (0.75 g) was dissolved in tetrahydrofuran (30 ml) and activated manganese dioxide (3 g) was added. The mixture was stirred at room temperature for 16 hrs. The reaction mixture was filtered and the filtrate was concentrated. Ethyl diethylphosphonoacetate (0.50 g) and N,N-dimethylformamide (10 ml) were added to the residue. To this mixture was added sodium hydride (60% in oil, 80 mg) at 0° C. and the mixture was stirred at 0° C. for 1 hr. The reaction mixture was poured into an aqueous dilute hydrochloric acid solution and extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give a yellow oil. A 6N aqueous hydrochloric acid solution (10 ml) and acetic acid (5 ml) were added to this yellow oil and the mixture was stirred for 3 hrs. with heating under reflux. The reaction mixture was concentrated, poured into water, and the precipitated solids were filtered, washed with water and dried to give (2E)-3-[5-(4-fluorophenyl)-1,2,3-thiadiazol-4-yl]acrylic acid (190 mg, yield: 21%) as pale-yellow crystals.

reactant | [5-(4-Fluorophenyl)-1,2,3-thiadiazol-4-yl]methanol | 0.75 g | FC1=CC=C(C=C1)C1=C(N=NS1)CO | C9H7FN2OS
reactant | hydrochloric acid | 6N, 10 ml | Cl | ClH
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
catalyst | manganese dioxide | 3 g | [O-2].[O-2].[Mn+4]
product | (2E)-3-[5-(4-fluorophenyl)-1,2,3-thiadiazol-4-yl]acrylic acid | 190 mg, yield: 21% | FC1=CC=C(C=C1)C1=C(N=NS1)/C=C/C(=O)O | C11H7FN2O2S
